US07781625B2
Benzoic acid (0.31 g, 2.5 mmol), m-xylene (0.53 g, 5.0 mmol), [bmim] [NTf2] (0.50 g) and M(NTf2)2 (M=Co (0.14 g, 0.25 mmol), or Zn (0.15 g, 0.25 mmol) were placed in flasks equipped with stirrers and condensers. The contents of the flask were heated under reflux (ca 140-150° C.) for 2 days, then cooled to room temperature. The products were analysed by gas chromatographic analysis and found to give 93 and 87% conversions (for Co and Zn bis-triflimide reactions respectively) to 2,4-dimethylbenzophenone and, it is believed to be, 2,6-dimethylbenzophenone (11:1 isomer ratio in both cases). The results show that Zinc and cobalt bis-triflimide have been found to catalyse the benzoylation of m-xylene with benzoic acid. The reaction is slower that the corresponding reaction with benzoyl chloride. The catalyst was recycled and the reaction was repeated. The results of the repeat experiment are shown in Table 4.

reactant | Benzoic acid | 2.5 mmol, 0.31 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | m-xylene | 5.0 mmol, 0.53 g | C1(=CC(=CC=C1)C)C | C8H10
reactant | bmim | CCCCN1C=C[N+](=C1)C
catalyst | Zn | 0.25 mmol, 0.15 g | [Zn] | Zn
product | 2,4-dimethylbenzophenone | CC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)C | C15H14O
